US04918074
In 300 ml of acetic acid is dissolved 29.5 g of 6-methoxycarbonyl-5-methyl-7-(2-thienyl)-4,7-dihydro-1,2,4-triazolo[1,5-a]pyrimidine at 60° C. To the solution is added dropwise a solution of 16 g of bromine in 50 ml of acetic acid for 20 minutes with stirring. After stirring at room temperature for an hour, the reaction mixture is poured into water, extracted with chloroform, washed with water and potassium carbonate solution, dried and the solvent is evaporated under reduced pressure. The obtained pale yellow crystals are recrystallized from ethanol to give 18 g of 5-bromomethyl-6-methoxycarbonyl-7-(2-thienyl)-4,7-dihydro-1,2,4-triazolo[1,5-a]pyrimidine, melting at 155° C. with decomposition.

reactant | 6-methoxycarbonyl-5-methyl-7-(2-thienyl)-4,7-dihydro-1,2,4-triazolo[1,5-a]pyrimidine | 29.5 g | COC(=O)C1=C(NC=2N(C1C=1SC=CC1)N=CN2)C | C12H12N4O2S
reactant | bromine | 16 g | BrBr | Br2
reactant | water | O | H2O
solvent | acetic acid | 300 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | 5-bromomethyl-6-methoxycarbonyl-7-(2-thienyl)-4,7-dihydro-1,2,4-triazolo[1,5-a]pyrimidine | 18 g | BrCC=1NC=2N(C(C1C(=O)OC)C=1SC=CC1)N=CN2 | C12H11BrN4O2S
